US06316466B1
A mixture of 5-amino-1-(4-fluorophenyl)-4-[3-hydroxybenzoyl]pyrazole (1.0 g, 3.3 mmol), tert-butyl bromoacetate (1.4 g, 7.2 mmol) and potassium carbonate (1 g, 7.2 mmol) in acetonitrile was heated at 70° C. overnight. The reaction mixture was cooled, diluted with ethyl acetate and filtered. The filtrate was concentrated in vacuo and the residue was purified by flash chromatography (elution gradient: 10% acetone/hexane) to give 5-amino-4-[3-(tert-butoxycarbonylmethyloxy)benzoyl]-1-(4-fluorophenyl)pyrazole (1.2 g) as a solid.

reactant | 5-amino-1-(4-fluorophenyl)-4-[3-hydroxybenzoyl]pyrazole | 3.3 mmol, 1.0 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)O)=O | C16H12FN3O2
reactant | tert-butyl bromoacetate | 7.2 mmol, 1.4 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 7.2 mmol, 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-amino-4-[3-(tert-butoxycarbonylmethyloxy)benzoyl]-1-(4-fluorophenyl)pyrazole | 1.2 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)OCC(=O)OC(C)(C)C)=O | C22H22FN3O4
